US07320995B2
B. 2,6-difluoro-4-(pyrrolidin-1-yl ethoxy)-benzaldehyde
Cool a mixture of 1-(3,5-difluoro-phenoxymethyl)-pyrrolidine (0.1 g) and dry tetrahydrofuran (5 mL) to −78° C. under a nitrogen atmosphere. Add butyllithium (0.29 mL, 1.6 M in tetrahydrofuran) and N,N,N′,N′-tetramethylethylenediamine (0.5 mL) and stir for 30 minutes. Then, add dimethylformamide (0.07 mL) and stir at room temperature for 60 minutes. Quench by pouring the reaction mixture into a mixture of cold saturated aqueous ammonium chloride and ethyl acetate. Separate the layers, wash the organic phase with water and then concentrate under reduced pressure to provide (0.10 g, 94%) of the title compound as an oil.

reactant | 1-(3,5-difluoro-phenoxymethyl)-pyrrolidine | 0.1 g | FC=1C=C(OCN2CCCC2)C=C(C1)F | C11H13F2NO
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | butyllithium | 1.6 M, 0.29 mL | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 0.5 mL | CN(CCN(C)C)C | C6H16N2
solvent | dimethylformamide | 0.07 mL | CN(C=O)C | C3H7NO
product | 2,6-difluoro-4-(pyrrolidin-1-yl ethoxy)-benzaldehyde | 0.10 g, 94% | FC1=C(C=O)C(=CC(=C1)OCCN1CCCC1)F | C13H15F2NO2
